US07320995B2
Reflux a mixture of 1-benzyl-4,5-dibromo-2-(2,4-difluoro-phenyl)-imidazole (0.386 g, 0.90 mmol), 3,5-difluorophenyl boronic acid (0.15 g, 0.945 mmol), trans-dichlorobis(triphenylphosphine) palladium (II) (0.065 g, 0.09 mmol), 2 M sodium carbonate (0.90 mL), methanol (1.5 mL) and toluene (10 mL) for 18 hours, then cool to ambient temperature. Dilute with ethyl acetate and wash with saturated sodium bicarbonate, saturated sodium chloride, dry with magnesium sulfate, filter and remove solvents under reduced pressure. Purify the residue on silica gel eluting with hexane/ethyl acetate mixtures to provide 1-benzyl-4-bromo-5-(3,5-difluoro-phenyl)-2-(2,4-difluoro-phenyl)-1H-imidazole (0.19 g). MS(ES+): m/z=461.0 (M+H)+

reactant | 1-benzyl-4,5-dibromo-2-(2,4-difluoro-phenyl)-imidazole | 0.90 mmol, 0.386 g | C(C1=CC=CC=C1)N1C(=NC(=C1Br)Br)C1=C(C=C(C=C1)F)F | C16H10Br2F2N2
reactant | 3,5-difluorophenyl boronic acid | 0.945 mmol, 0.15 g | FC=1C=C(C=C(C1)F)B(O)O | C6H5BF2O2
reactant | sodium carbonate | 2 M, 0.90 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | methanol | 1.5 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 1-benzyl-4-bromo-5-(3,5-difluoro-phenyl)-2-(2,4-difluoro-phenyl)-1H-imidazole | 0.19 g | C(C1=CC=CC=C1)N1C(=NC(=C1C1=CC(=CC(=C1)F)F)Br)C1=C(C=C(C=C1)F)F | C22H13BrF4N2
